US07749679B2
A mixture comprising 13.65 g (90.9 mmol) of 3-phenyl-propanoic acid, 15.0 g (90.9 mmol) of 3-bromo-dihydrofuran-2(3H)-one, 37.7 g of potassium carbonate, and 150 ml of acetone was refluxed under nitrogen current for 9 hours. To the reaction mixture were added 200 ml of water and 400 ml of ethyl acetate, the organic layer was washed with water, a saturated sodium hydrogencarbonate aqueous solution, a saturated sodium chloride aqueous solution, and water in the order, and the organic layer was dried with sodium sulfate. The solvent was concentrated to obtain 24.3 g of brown and oily tetrahydro-2-oxofuran-3-yl 3-phenylpropanoate. The oily compound (5.00 g) (21.3 mmol), 4.32 g (21.3 mmol) of diphenyl sulfoxide, 6 ml of trifluoroacetic anhydride, and 6.7 g (22.3 mmol) of 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonic acid were stirred with ice-cooling for 3 hours, and further at room temperature for 2 hours. Chloroform (200 ml) was added to the reaction solution, the organic layer was washed with water, and the residue was purified by column chromatography (SiO2, chloroform/methanol: 10/1) to obtain 8.2 g of oily compound (A-34).

reactant | 3-phenyl-propanoic acid | 90.9 mmol, 13.65 g | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | 3-bromo-dihydrofuran-2(3H)-one | 90.9 mmol, 15.0 g | BrC1C(OCC1)=O | C4H5BrO2
reactant | potassium carbonate | 37.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 150 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | tetrahydro-2-oxofuran-3-yl 3-phenylpropanoate | C1(=CC=CC=C1)CCC(=O)OC1C(OCC1)=O | C13H14O4
